US09227949B2
Step 2. Synthesis of 5-formyl-2-thiophencarboxylic acid tert-butyl ester
To a solution of 5-formyl-2-thiophencarboxylic acid (25 g, 0.16 mol) in tert-butyl alcohol (200 mL) and dichloromethane (100 mL) was added di-tert-butyl dicarbonate (41 g, 0.19 mol), N,N-dimethylaminopyridine (2.0 g, 0.016 mol), and pyridine (5 mL), and the mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure. The residue was added to ethyl acetate and 0.5N-hydrochloric acid solution, the organic layer was separated, and the aqueous layer was extracted two times with ethyl acetate. The organic layers were combined, washed with 0.5 N sodium hydroxide solution and brine, and dried over anhydrous magnesium sulfate. The solvent of the filtrate after filtration was evaporated under reduced pressure to give the title compound (32.1 g, 0.15 mol, 94%).

reactant | 5-formyl-2-thiophencarboxylic acid | 0.16 mol, 25 g | C(=O)C1=CC=C(S1)C(=O)O | C6H4O3S
reactant | di-tert-butyl dicarbonate | 0.19 mol, 41 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | tert-butyl alcohol | 200 mL | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-formyl-2-thiophencarboxylic acid tert-butyl ester | 0.15 mol, 32.1 g, 94% | C(C)(C)(C)OC(=O)C=1SC(=CC1)C=O | C10H12O3S
